US06452032B1
(5-Bromothiophen-2-yl)methyl Tert-butyldiphenylsilyl Ether (Compound 12)
Tert-butyldiphenylsilyl chloride (7.8 mL, 30.1 mmol) was added to a solution of 5-bromo(thiophen-2-yl)methyl alcohol (4.9 g, 25.1 mmol) and 9.7 mL of dimethylformamide. The solution was treated with imidazole (4.29 g, 62.8 mmol) and stirred overnight at room temperature. The solution was diluted with ether and washed with 2% aqueous HCl. The layers were separated and the aqueous layer was extracted with ether. The combined organic extracts were washed with brine, and dried (MgSO4), and filtered, and the solvents were removed in vacuo. The residue was purified by silica gel chromatography (hexane) to produce the title compound.

reactant | Tert-butyldiphenylsilyl chloride | 30.1 mmol, 7.8 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | 5-bromo(thiophen-2-yl)methyl alcohol | 25.1 mmol, 4.9 g | BrC1=CC=C(S1)CO | C5H5BrOS
reactant | dimethylformamide | 9.7 mL | CN(C=O)C | C3H7NO
reactant | imidazole | 62.8 mmol, 4.29 g | N1C=NC=C1 | C3H4N2
solvent | ether | CCOCC | C4H10O
product | (5-Bromothiophen-2-yl)methyl Tert-butyldiphenylsilyl Ether | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1SC(=CC1)Br | C21H23BrOSSi
